US05693668
4-Bromo-3-trimethylsilylanisole
To a solution of 2,4-dibromoanisole (13.3 g, 50 mmol) in diethyl ether (50 ml) at 0° C. was added over 20 min 1.5M butyllithium (33.4 ml) and the reaction was allowed to react 15 min at 0° C. Then trimethylsilylchloride (5.43 g, 50 mmol) in diethyl ether (20 ml) was added over 10 min and the resulting mixture was stirred 18 hours at room temperature. At 0° C. 3N HCl (50 ml) was added and the organic layer was separated, washed with water, brine, dried over MgSO4 and concentrated. 4-Bromo-3-trimethylsilylanisole was purified by chromatography on silica gel (eluted with cyclohexane) as a colorless oil.

reactant | 2,4-dibromoanisole | 50 mmol, 13.3 g | BrC1=C(C=CC(=C1)Br)OC | C7H6Br2O
reactant | butyllithium | 1.5M, 33.4 ml | C(CCC)[Li]
reactant | trimethylsilylchloride | 50 mmol, 5.43 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | HCl | 3N, 50 ml | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 4-Bromo-3-trimethylsilylanisole | BrC1=C(C=C(C=C1)OC)[Si](C)(C)C | C10H15BrOSi
